US07704989B2
A solution of 110 mg of N-(4-fluorophenyl)-6-(1-hydroxy-1-methylethyl)imidazo[1,2-a]pyridine-2-carboxamide and 3.3 mg of para-toluenesulfonic acid in 5 ml of xylene is heated at reflux for 6 hours and then evaporated to dryness under reduced pressure. The residue is taken up in 200 ml of dichloromethane and 20 ml of water. The organic phase is dried and concentrated, and the residue is purified by chromatography on silica, elution being carried out with a mixture of dichloromethane and ethyl acetate (95/5). The fractions comprising the expected product are combined and concentrated to dryness. The residue is triturated and washed with ethyl ether, filtered off and dried to give 68 mg of N-(4-fluorophenyl)-6-isopropenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a beige solid.

reactant | N-(4-fluorophenyl)-6-(1-hydroxy-1-methylethyl)imidazo[1,2-a]pyridine-2-carboxamide | 110 mg | FC1=CC=C(C=C1)NC(=O)C=1N=C2N(C=C(C=C2)C(C)(C)O)C1 | C17H16FN3O2
reactant | para-toluenesulfonic acid | 3.3 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-fluorophenyl)-6-isopropenylimidazo[1,2-a]pyridine-2-carboxamide | 68 mg | FC1=CC=C(C=C1)NC(=O)C=1N=C2N(C=C(C=C2)C(=C)C)C1 | C17H14FN3O
